US05922737
Synthesis of (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt
Combine (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine (4.63 g, 16 mmol) and 48% hydrobromic acid (75 mL). Heat to reflux. After 1.5 hours, cool and evaporate in vacuo to give a solid. Add 47% hydriodic acid (30 mL) and heat at about 90° C. After 30 minutes cool to obtain a solid. Collect the solid by filtration, rinse with ethanol and diethyl ether, and dry to give the title compound: mp; >290° C.

reactant | (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | 16 mmol, 4.63 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | hydrobromic acid | 75 mL | Br | BrH
reactant | hydriodic acid | 30 mL | I | HI
product | (1H-benzimidazol-2-yl)(piperidin-4-yl)amine hydriodic acid salt | I.N1C(=NC2=C1C=CC=C2)NC2CCNCC2 | InChI=1S/C12H16N4.HI/c1-2-4-11-10(3-1)15-12(16-11)14-9-5-7-13-8-6-9;/h1-4,9,13H,5-8H2,(H2,14,15,16);1H
